US07001897B2
(2) (1R,5S,6S)-2-{1-[4-(3-aminoazetidine-1-carbonyl)-1,3-oxazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid
p-Nitrobenzyl (1R,5S,6S)-2-{1-{4-[3-(p-nitrobenzyloxycarbonylamino)azetidin-1-ylcarbonyl]-1,3-oxazol-2-yl}azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (250 mg, 0.321 mmol) (obtained as described in Example 79(1)) in a mixture of tetrahydrofuran (13 ml) and distilled water (13 ml) was subjected to catalytic hydrogenation in the presence of 10% palladium on charcoal (250 mg) at room temperature for 3.5 hours. After checking the completion of the reaction, the reaction mixture was filtered and to the filtrate were added ethyl acetate and distilled water. The resulting mixture was shaken in a separatory funnel and the aqueous layer was separated and concentrated under reduced pressure. The residue was purified by chromatography on a Cosmosil column (eluant: distilled water→distilled water:acetonitrile (82:18)) and the eluate was lyophilized to afford the desired compound (1R,5S,6S)-2-{1-[4-(3-aminoazetidine-1-carbonyl)-1,3-oxazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid (68 mg, yield 46%) as a white solid.

reactant | p-Nitrobenzyl (1R,5S,6S)-2-{1-{4-[3-(p-nitrobenzyloxycarbonylamino)azetidin-1-ylcarbonyl]-1,3-oxazol-2-yl}azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 0.321 mmol, 250 mg | [N+](=O)([O-])C1=CC=C(COC(=O)NC2CN(C2)C(=O)C=2N=C(OC2)N2CC(C2)SC=2[C@@H]([C@H]3N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]3[C@@H](C)O)=O)C)C=C1 | C35H35N7O12S
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
product | (1R,5S,6S)-2-{1-[4-(3-aminoazetidine-1-carbonyl)-1,3-oxazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid | 68 mg, yield 46% | NC1CN(C1)C(=O)C=1N=C(OC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)O)C([C@@H]2[C@@H](C)O)=O)C | C20H25N5O6S
